US08138181B2
Step A: Preparation of naphthalen-2-ylmethyl carbonochloridate:
A solution of naphthalen-2-yl methanol (51.2 g, 324 mmol) dissolved in anhydrous THF (1 L) was treated with phosgene (205 mL, 20% solution in toluene, 388 mmol). The solution was stirred at ambient temperature for 45 minutes and then concentrated to afford the desired product as a solid, which was dried under vacuum and used directly in the next step.

reactant | naphthalen-2-yl methanol | 324 mmol, 51.2 g | C1=C(C=CC2=CC=CC=C12)CO | C11H10O
reactant | phosgene | 388 mmol, 205 mL | C(=O)(Cl)Cl | CCl2O
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | naphthalen-2-ylmethyl carbonochloridate | C(OCC1=CC2=CC=CC=C2C=C1)(=O)Cl | C12H9ClO2
